US07015218B1
N-[3-Bromo-4-(4-morpholinopiperidin-1-yl)phenyl]-1-(4-chlorophenyl)-5-methylpyrazole-4-carboxamide ½ hydrate
By the reaction and treatment in the same manner as in Example 150 using 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic chloride (4.8 g) and 3-bromo-4-(4-morpholinopiperidin-1-yl)aniline (5 g), the title compound (4.5 g) was obtained, melting point: 205–210° C.

reactant | 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic chloride | 4.8 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)Cl | C11H8Cl2N2O
reactant | 3-bromo-4-(4-morpholinopiperidin-1-yl)aniline | 5 g | BrC=1C=C(N)C=CC1N1CCC(CC1)N1CCOCC1 | C15H22BrN3O
product | N-[3-Bromo-4-(4-morpholinopiperidin-1-yl)phenyl]-1-(4-chlorophenyl)-5-methylpyrazole-4-carboxamide | 4.5 g | BrC=1C=C(C=CC1N1CCC(CC1)N1CCOCC1)NC(=O)C=1C=NN(C1C)C1=CC=C(C=C1)Cl | C26H29BrClN5O2
